US07750185B2
The preparation was carried out analogously to Synthesis Example 4 using 3.14 g (4.48 mmol) 2,2-bis(4-nitrobenzyl)-1,3 di(6-bromohexanoyl)propanediol and 1.96 g (8.98 mmol 4-(trans-4-propylcyclohexyl)phenol yield 2,2-bis(4-nitrobenzyl)-1,3-di {6-[4-(trans-4-propylcyclohexyl)phenoxy]hexanoyl}propanediol.

reactant | 2,2-bis(4-nitrobenzyl)-1,3 di(6-bromohexanoyl)propanediol | 4.48 mmol, 3.14 g | [N+](=O)([O-])C1=CC=C(CC(C(O)(O)C(CCCCCBr)=O)(CC(CCCCCBr)=O)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C29H36Br2N2O8
reactant | 4-(trans-4-propylcyclohexyl)phenol | 8.98 mmol | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C15H22O
product | 2,2-bis(4-nitrobenzyl)-1,3-di {6-[4-(trans-4-propylcyclohexyl)phenoxy]hexanoyl}propanediol | [N+](=O)([O-])C1=CC=C(CC(C(O)(O)C(CCCCCOC2=CC=C(C=C2)[C@@H]2CC[C@H](CC2)CCC)=O)(CC(CCCCCOC2=CC=C(C=C2)[C@@H]2CC[C@H](CC2)CCC)=O)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C59H78N2O10
